US08357706B2
A stirring solution of (R)-5-hydroxy-5,6,7,8-tetrahydronaphthalene-1-carbonitrile INT-2 (3.00 g, 17.32 mmol) in toluene (16 mL) under N2, was cooled to 0° C. DPPA (9.53 g, 34.64 mmol) was added, followed by dropwise addition of DBU (3.16 mL, 20.78 mmol) over 20 min. The mixture was stirred at 0° C. for 4 h then slowly warmed to room temperature over 2 h and then concentrated. The resulting crude mixture was diluted with EA and washed with NaHCO3. The combined organic layers were washed with brine, dried over Na2SO4, and chromatographed (EAI hexane) to provide 2.49 g (72.6%) of (S)-5-azido-5,6,7,8-tetrahydronaphthalene-1-carbonitrile INT-6 as a white solid. LCMS-ESI (m/z) calculated for C11H10N4: 198.2; found 156.1 [M−N3]+, tR=3.65 min. 1H NMR (400 MHz, CDCl3) δ 7.60 (dd, J=7.6, 1.2 Hz, 1H), 7.56 (dd, J=7.8, 0.6 Hz, 1H), 7.33 (t, J=7.7 Hz, 1H), 4.59 (t, J=4.4 Hz, 1H), 3.08 (dt, J=18.0, 5.1 Hz, 1H), 2.99-2.83 (m, 1H), 2.15-1.96 (m, 3H), 2.00-1.81 (m, 1H). 13C NMR (101 MHz, DMSO) δ 141.05, 135.58, 133.47, 132.66, 126.58, 117.43, 113.21, 58.74, 28.28, 27.54, 18.27.

reactant | (R)-5-hydroxy-5,6,7,8-tetrahydronaphthalene-1-carbonitrile | O[C@H]1C=2C=CC=C(C2CCC1)C#N | C11H11NO
reactant | DPPA | 34.64 mmol, 9.53 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 20.78 mmol, 3.16 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-5-azido-5,6,7,8-tetrahydronaphthalene-1-carbonitrile | 2.49 g, 72.6% | N(=[N+]=[N-])[C@@H]1C=2C=CC=C(C2CCC1)C#N | C11H10N4
